US06638929B2
To a solution of 5.67 g (0.020 mole) of 1-(2-chloroethoxy)-4,5-bis(chloromethyl)-2-methoxybenzene in 75 ml acetic acid is added a solution of 3.5 g of anhydrous sodium acetate in 100 ml acetic acid. This mixture is refluxed with stirring for 2 hours. Solids are removed by filtration and washed with acetic acid. The filtrate is evaporated to approximately 30 ml, then poured into water and extracted with ether. The organic phase is washed with aqueous sodium carbonate, water and brine. After drying over sodium sulfate, the solution is filtered and evaporated to give 5.69 g (86%) of 2-[(acetyloxy)methyl]-4-(2-chloroethoxy)-5-methoxybenzyl acetate as a white solid, m.p. 79-80° C.

reactant | 1-(2-chloroethoxy)-4,5-bis(chloromethyl)-2-methoxybenzene | 0.020 mole, 5.67 g | ClCCOC1=C(C=C(C(=C1)CCl)CCl)OC | C11H13Cl3O2
reactant | sodium acetate | 3.5 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 2-[(acetyloxy)methyl]-4-(2-chloroethoxy)-5-methoxybenzyl acetate | 5.69 g, 86% | C(C)(=O)OCC1=C(C=C(C(=C1)OC)OCCCl)COC(C)=O | C15H19ClO6
